US07750002B2
Amine preparation: 4-(2-Methoxy-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester (465 mg) and 2-thiazolecarboxaldehyde (190 ul) were stirred in dry 1,2-dichloroethane (5 mL) for 1 h. Next were added acetic acid (1 eq.) and sodium triacetoxyborohydride (458 mg). The reaction mixture was stirred at room temperature overnight, diluted with DCM, washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residue was purified using flash chromatography to yield 4-[(2-methoxy-ethyl)-thiazol-2-ylmethyl-amino]-piperidine-1-carboxylic acid tert-butyl ester (574 mg). Treatment of this compound with HCl in DCM/MeOH and basic wash with sodium hydrogen carbonate yielded the desired amine.

reactant | 4-(2-Methoxy-ethylamino)-piperidine-1-carboxylic acid tert-butyl ester | 465 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NCCOC | C13H26N2O3
reactant | 2-thiazolecarboxaldehyde | 190 ul | S1C(=NC=C1)C=O | C4H3NOS
reactant | acetic acid | 1 eq. | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 458 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-[(2-methoxy-ethyl)-thiazol-2-ylmethyl-amino]-piperidine-1-carboxylic acid tert-butyl ester | 574 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC=1SC=CN1)CCOC | C17H29N3O3S
